US04558161
To 112 g (1 mole) of chlorobenzene was added 123 g (1.1 moles) of chlorosulfonic acid at 10° to 20° C. After the addition, while being maintained at 20° to 30° C., the mixture was stirred for 3 hours to complete the reaction. A 0.1 mole quantity of the unreacted chlorobenzene was recovered in the same manner as in Example 1 and 32 g of 4,4'-dichlorodiphenylsulfone was obtained in 25% yield. M.P. 148.5° to 149.5° C. Purity of 99.8%.

reactant | chlorobenzene | 1 mole, 112 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | chlorosulfonic acid | 1.1 moles, 123 g | ClS(=O)(=O)O | ClHO3S
product | 4,4'-dichlorodiphenylsulfone | 32 g, 25% yield | C1=CC(=CC=C1S(=O)(=O)C2=CC=C(C=C2)Cl)Cl | C12H8Cl2O2S
